Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
abdominal pain, hemoperitoneum, anemia, dark stools
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HPI: ___ G0 with history of likely ruptured hemorrhagic cyst in
___ who presents with diffuse abdominal pain, headache and
imaging findings concerning for hemoperitoneum. She had similar
presentation in ___ with abdominal pain and CT scan 
showing
hemoperitneum concerning for ruptured hemorrhagic cyst, however
with no definitive cyst identified on imaging. She was managed
conservatively and plan for outpatient GI and GYN follow-up. She
presents today with similar abdominal pain begining 3 days ago,
which is worsening in intensity, at worst is ___, currently
___. She took tramadol at home with some improvement. The 
pain
is sharp and cramping in nature, and is "all over her abdomen",
sometimes radiating to her back. She presented today because of
new finding of dark stools. Of note, she has a history of
fibroids and abnormal uterine bleeding and is scheduled for
hysterectomy with Dr. ___ month. 

She had dizziness during the onset of symptoms 3 days ago, which
is now improving, and reports a headache at this time. She feels
dehydrated as well as she has had associated nausea and 
decreased
appetite. 

Denies vaginal discharge, urinary symptoms, chest pain, 
shortness
of breath, difficulty with ambulation.

She has received fentanyl in the ED with improvement in her 
pain.
She had a stool guiac which was reportedly negative.
 
Past Medical History:
GYN HISTORY:
LMP: ___  
- Monthly periods, heavy bleeding with passage of clots, with
significant cramping.
- No prior history of anemia due to periods, denies history of
blood transfusions or iron supplementation
- History of fibroids with hystrectomy scheduled for next month
with Dr. ___.
- History of endometriosis, s/p lsc excision of endometriosis 
and
cystectomy in her ___
  
OB History: G0

Past Medical History: anxiety, depression, GERD, chronic
abdominal pain

Surgical History: laparoscopic excision of endometriosis and
cystectomy in ___, LEEP, hysteroscopy/polpectomy (___)

Allergies:
- nitrofurantoin (hives)
- metronidazole (itchy rash)
- salmon oil (nausea, dizziness)
 
Social History:
Social History: Drinks ___ glasses of wine per night. Denies
tobacco or drug use. Lives in ___ with two roommates and 
her
dog. Works as a ___, works on her feet all day. Feels
safe at home
 
Physical Exam:
On admission: 
VITALS: temp 98.3, HR 73, BP 122/71, RR 18, O2 sat 98% on RA

General: NAD, resting comfortably in bed on her cellphone
HEENT: moist mucus membranes
Cardiac: RRR
Pulm: normal work of breathing
Abdomen: soft, mildly distended, no rebound or guarding, tender
to palpation in suprapubic region and mid abdomen, midline mass
palpated likely representing fibroid (tenderness to palpation
over mass), no adnexal masses or tenderness, no fluid wave
Ext: no clubbing, cyanosis, edema
Pelvic: patient declined, states that she is on her period

On discharge:
 
Pertinent Results:
___ 01:00PM BLOOD WBC-9.4 RBC-3.06* Hgb-8.9* Hct-25.9* 
MCV-85 MCH-29.1 MCHC-34.4 RDW-12.7 RDWSD-38.5 Plt ___
___ 09:30PM BLOOD WBC-8.5 RBC-2.87* Hgb-8.4* Hct-24.6* 
MCV-86 MCH-29.3 MCHC-34.1 RDW-12.9 RDWSD-38.7 Plt ___
___ 03:20AM BLOOD WBC-5.6 RBC-2.63* Hgb-7.8* Hct-22.8* 
MCV-87 MCH-29.7 MCHC-34.2 RDW-12.9 RDWSD-39.8 Plt ___
___ 06:32AM BLOOD WBC-6.3 RBC-2.77* Hgb-8.1* Hct-24.2* 
MCV-87 MCH-29.2 MCHC-33.5 RDW-12.9 RDWSD-40.3 Plt ___
___ 12:42PM BLOOD WBC-8.1 RBC-2.90* Hgb-8.5* Hct-25.2* 
MCV-87 MCH-29.3 MCHC-33.7 RDW-13.1 RDWSD-40.0 Plt ___
___ 01:00PM BLOOD Neuts-79.8* Lymphs-13.8* Monos-5.7 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-7.52* AbsLymp-1.30 
AbsMono-0.54 AbsEos-0.01* AbsBaso-0.03
___ 09:30PM BLOOD Neuts-72.1* ___ Monos-6.7 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-6.13* AbsLymp-1.73 
AbsMono-0.57 AbsEos-0.02* AbsBaso-0.02
___ 06:16PM BLOOD ___ PTT-22.2* ___
___ 01:00PM BLOOD Glucose-98 UreaN-9 Creat-0.6 Na-137 K-3.7 
Cl-99 HCO3-24 AnGap-14
___ 01:00PM BLOOD ALT-13 AST-21 AlkPhos-56 TotBili-1.2
___ 06:32AM BLOOD Iron-37
___ 01:00PM BLOOD Albumin-4.0
___ 06:32AM BLOOD calTIBC-293 Ferritn-84 TRF-225
___ 01:00PM BLOOD HCG-<5
___ 01:27PM BLOOD Lactate-1.___ G0 who was admitted on ___ with abdominal pain, 
hemoperitoneum, anemia, and dark stools as well as degenerating 
fibroid.

Pelvic US in the ED (___) showed Exophytic mass arising from 
the posterior wall of the uterus with cystic and solid 
components thought to represent an exophytic degenerating 
fibroid. CT A/P in ED (___) also showed complex fluid within 
the pelvis, bilateral paracolic gutters, and around the liver, 
increased from prior, likely the sequela of ruptured ovarian 
cyst. No other source of hemoperitoneum visualized. Likely 
degenerating exophytic fundal fibroid, now measuring 10.8 cm. 
Given concern for ruptured cyst and hemoperitoneum, Hct was 
trended and was stable 25.9 (in ED ___ -> ___ over 18 hours 
on HD#1 (___). Her coags were wnl and a urine Hcg and serum 
Hcg were both negative. She was made NPO in the ED and 
transitioned to regular diet on HD#1 given low concern for need 
for surgical inervention, which she tolerated well. Her pain was 
well controlled with IV dulaudid and tylenol in ED and then 
transitioned to PO pain medications. Given lack of evidence of 
hemorrhagic cyst it was believed pain was due to degenerating 
fibroid. ACS was consulted given hemoperitoneum and suspected 
this was most likely from a ruptured ovarian cyst that had 
collapsed after rupturing and was not visible on imaging. her 
vital signs remained stable and she had no signs/symptoms of 
acute blood loss anemia. She was then discharge in stable 
condition on HD#1 with close outpatient follow-up scheduled and 
plan for interval hysterectomy given hx of menorrhagia.
 
Medications on Admission:
DICYCLOMINE - dicyclomine 20 mg tablet. 1 tablet(s) by mouth 
four
times a day as needed -  (Prescribed by Other Provider)
ESCITALOPRAM OXALATE [LEXAPRO] - Lexapro 10 mg tablet. 1 (One)
tablet(s) by mouth  -  (Prescribed by Other Provider)
LORAZEPAM - Dosage uncertain -  (Prescribed by Other Provider)
ONDANSETRON - ondansetron 4 mg disintegrating tablet. 1 
tablet(s)
by mouth every six (6) hours
PANTOPRAZOLE - pantoprazole 40 mg tablet,delayed release. 1 
(One)
tablet(s) by mouth twice a day -  (Prescribed by Other Provider)
TRAMADOL - Dosage uncertain -  (Prescribed by Other Provider)
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever 
Do not exceed 4000 mg per day.  
RX *acetaminophen 500 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO DAILY:PRN Constipation - First 
Line 
Do not take if you are experiencing diarrhea.  
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*50 Tablet Refills:*2 
3.  Ferrous Sulfate 325 mg PO DAILY 
Continue to take this medication daily. Take colace if 
experiencing constipation on this medication  
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
once a day Disp #*50 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
hemoperitoneum 
degenerating fibroid 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after presenting 
with abdominal pain, found to have hemoperitonem and 
degenerating fibroid. During your stay, you were found to be 
anemic, however, your hematocrit (level measuring anemia) was 
stable. You were started on iron pills. P

General instructions:
* Take your medications as prescribed, including iron 
supplements.
* Take a stool softener such as colace while taking opioids to 
prevent constipation.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:

Call your doctor for:
* Abdominal pain
* Abdominal swelling
* Nausea and vomiting
* Vomiting blood
* Difficulty swallowing
* Diarrhea
* Constipation
* Blood in stool
* Black stool

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Stop constipation medications if you are having loose stools 
or diarrhea.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___